US05824691
To a solution of 6-carboxy-8-chloro-4,4-dimethyl-4H-pyrrolo[2,1-c][1,4]benzoxazine (0.7 g) and triethylamine (0.39 ml) in tetrahydrofuran (7 ml) and pyridine (14 ml) was added isobutyl chloroformate (0.38 g) under ice cooling. After being stirred for 2 hours at 7°-10° C., guanidine (0.3 g) was added to the reaction mixture and the whole was stirred for 8 hours at room temperature. The reaction mixture was poured into a mixture of ethyl acetate (100 ml) and water (100 ml). The organic layer was washed successively with 10% potassium carbonate aqueous solution, brine, dried over magnesium sulfate and evaporated in vacuo. The residue was treated with hydrogen chloride-ethanol to afford 8-chloro-4,4-dimethyl-6-diaminomethyleneaminocarbonyl-4H-pyrrolo[2,1-c][1,4]benzoxazine hydrochloride

reactant | 6-carboxy-8-chloro-4,4-dimethyl-4H-pyrrolo[2,1-c][1,4]benzoxazine | 0.7 g | C(=O)(O)C1=CC(=CC=2N3C(C(OC21)(C)C)=CC=C3)Cl | C14H12ClNO3
reactant | triethylamine | 0.39 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.38 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | guanidine | 0.3 g | NC(=N)N | CH5N3
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | pyridine | 14 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 8-chloro-4,4-dimethyl-6-diaminomethyleneaminocarbonyl-4H-pyrrolo[2,1-c][1,4]benzoxazine hydrochloride | Cl.ClC=1C=C(C2=C(N3C(C(O2)(C)C)=CC=C3)C1)C(=O)N=C(N)N | InChI=1S/C15H15ClN4O2.ClH/c1-15(2)11-4-3-5-20(11)10-7-8(16)6-9(12(10)22-15)13(21)19-14(17)18;/h3-7H,1-2H3,(H4,17,18,19,21);1H
